US07504412B2
N-(2-cyclopropyl-3-methylimidazo[1,2-a]pyridin-6-yl)-5-(4-fluorophenyl)-2-pyrazinecarboxamide hydrochloride
Operations similar to those of Example 1 were conducted using 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine and 5-(4-fluorophenyl)-2-pyrazinecarboxylic acid. The resulting solid was dissolved in ethyl acetate, followed by addition of 4N hydrochloric acid-ethyl acetate solution and concentration under reduced pressure. The title compound was obtained as white solid.

reactant | 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine | C1(CC1)C=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1C | C11H11N3O2
reactant | 5-(4-fluorophenyl)-2-pyrazinecarboxylic acid | FC1=CC=C(C=C1)C=1N=CC(=NC1)C(=O)O | C11H7FN2O2
reactant | hydrochloric acid ethyl acetate | 4N | Cl.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-cyclopropyl-3-methylimidazo[1,2-a]pyridin-6-yl)-5-(4-fluorophenyl)-2-pyrazinecarboxamide hydrochloride | Cl.C1(CC1)C=1N=C2N(C=C(C=C2)NC(=O)C2=NC=C(N=C2)C2=CC=C(C=C2)F)C1C | InChI=1S/C22H18FN5O.ClH/c1-13-21(15-2-3-15)27-20-9-8-17(12-28(13)20)26-22(29)19-11-24-18(10-25-19)14-4-6-16(23)7-5-14;/h4-12,15H,2-3H2,1H3,(H,26,29);1H
